US05157121
1-[(N-Methylsulfonyl-N-methylamino)sulfonyl]-3-(4,6-dimethoxy-2-pyrimidyl)urea
52.0 g of ethyl (N-methylsulfonyl-N-methylamino)sulfonylcarbamate are dissolved in 500 ml of chlorobenzene, 31.0 g of 2-amino-4,6-dimethoxypyrimidine are added at room temperature with stirring, and the mixture is heated at 80° C. for 3 hours. After cooling to 0° C., the precipitate is filtered off and washed with 100 ml of chlorobenzene. 72.7 g of the desired product of a purity of 98.5% are obtained, which corresponds to a yield of 97.2% of theory. The melting point of the product is 185°-186° C.

reactant | ethyl (N-methylsulfonyl-N-methylamino)sulfonylcarbamate | 52.0 g | CS(=O)(=O)N(C)S(=O)(=O)NC(OCC)=O | C5H12N2O6S2
reactant | 2-amino-4,6-dimethoxypyrimidine | 31.0 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
solvent | chlorobenzene | 500 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-[(N-Methylsulfonyl-N-methylamino)sulfonyl]-3-(4,6-dimethoxy-2-pyrimidyl)urea | 72.7 g, yield of 97.2% | CS(=O)(=O)N(C)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C9H15N5O7S2
